US05262415
(b) N-(6-methanesulfonylamino-3-pyridyl)-N"-cyano-N'-(1,2,2-trimethylpropyl) guanidine
Cyanamide (172 mg, 4.1 mmol) and diisopropylethylamine (711 μl, 4.1 mmol) were added to 1 ml of a solution of N-(6-methanesulfonylamino-3-pyridyl)-N'-(1,2,2-trimethylpropyl)carbodiimide (121 mg, 0.41 mmol) in chloroform and the mixture was stirred at room temperature for 16 hours. After an insoluble matter was removed by filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography [eluent: chloroform alone to chloroform:methanol =5:1 (v/v)] and subjected to recrystallization from chloroform-ether to obtain 97 mg of the intended product (yield: 72%).

reactant | Cyanamide | 4.1 mmol, 172 mg | N#CN | CH2N2
reactant | diisopropylethylamine | 4.1 mmol, 711 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(6-methanesulfonylamino-3-pyridyl)-N'-(1,2,2-trimethylpropyl)carbodiimide | 0.41 mmol, 121 mg | CS(=O)(=O)NC1=CC=C(C=N1)N=C=NC(C(C)(C)C)C | C13H20N4O2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(6-methanesulfonylamino-3-pyridyl)-N"-cyano-N'-(1,2,2-trimethylpropyl) guanidine | 97 mg, yield: 72% | CS(=O)(=O)NC1=CC=C(C=N1)NC(=NC#N)NC(C(C)(C)C)C | C14H22N6O2S
